US08604061B2
In analogy to example 162a-d (R)-4-formyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester was treated sequentially with triphenylphosphine/carbon tetrabromide, 3,4-dichlorophenylboronic acid, dimethyl zinc and hydrogen chloride to give (E)-(S)-2-amino-4-phenyl-hex-3-en-1-ol. Yellow oil.

reactant | (R)-4-formyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C=O)(C)C | C11H19NO4
reactant | triphenylphosphine carbon tetrabromide | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C(Br)(Br)(Br)Br
reactant | 3,4-dichlorophenylboronic acid | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | dimethyl zinc | C[Zn]C
reactant | hydrogen chloride | Cl | ClH
product | (E)-(S)-2-amino-4-phenyl-hex-3-en-1-ol | N[C@H](CO)\C=C(/CC)\C1=CC=CC=C1 | C12H17NO
